datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1C[CH:32]=[CH:31][C+:20]1[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.CC[O:72][C:61]([C:10](=[C:11](C)[O-:12])[C:81](=[O:82])[O:92]CC)=[O:62]>>CC[O:72][C:61]([C:10]([C:11](C)=[O:12])([C:20]1([C:41]2=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]2)CC[CH:32]=[CH:31]1)[C:81](=[O:82])[O:92]CC)=[O:62] 10,11=10,20;12=11,12"
"F[C:20]1=[C:21](F)[C:22](=[O:23])[C:30](F)=[C:31](F)[C:32]1=[O:33].[S:10]=[C:11]1[CH:12]=[CH:13]/[C:14](=[N+:15](\[O-:16])[O-:66])[CH:73]=[CH:72]1>>F[C:20]1([S:10][C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:66])[CH:73]=[CH:72]2)[C:21](F)=[C:22]([O-:23])[C:30](F)=[C:31](F)[C:32]1=[O:33] 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[NH2:10]>>CC[O:34][C:32]([C:21]([CH:20]([NH2+:10]C)[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
CC1=CC(C)=C([N:63]2[C:62]([C:81]([C-:10](C)C3=CC=CC=C3)=[O:82])=[N+:73](C3=C(C)C=C(C)C=C3C)[N:65]=[C:64]2C2=CC=CC=C2)C(C)=C1.CN1CC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CC3)[CH:45]=[CH:46]1)=[CH:32]2>>CC1=CC(C)=C([N:63]2[C:62]([C:81]([C:10](C)(C3=CC=CC=C3)[CH:20]([C:31]3=[CH:32][C:33]4=[C:34](N(C)CC4)[CH:35]=[CH:36]3)[C:41]3=[CH:42][C:43]4=[C:44](N(C)CC4)[CH:45]=[CH:46]3)=[O:82])=[N+:73](C3=C(C)C=C(C)C=C3C)[N:65]=[C:64]2C2=CC=CC=C2)C(C)=C1 10=20
"C1=CC=C([P:22](C2=CC=CC=C2)(/[N:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)=[O:23])C=C1.CC(C)(C)[O:94][C:83]([N:12]1[C:11]([B-:72](F)(F)F)=[CH:10][C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2)=[O:84]>>CC(C)(C)[O:94][C:83]([N+:12]1=[C:11]([B-:72](F)(F)F)[CH:10]([CH:20]([N:21]=[P:22](C2=CC=CC=C2)(C2=CC=CC=C2)[O-:23])[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)[C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2)=[O:84] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:61]/[C:11](=[C:10](/[C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([O:95]C)[CH:103]=[CH:102]1)[O-:12].[C+:20]1([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2>>CC[O:61][C:11]([C:10]([C:20]1([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2)([C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([O:95]C)[CH:103]=[CH:102]1)=[O:12] 10,11=10,20;12=11,12"
"C[Si:63](C)(C)[O:12]/[C:11]1=[CH:10]/CCCCCC1.Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1>>C[Si:63](C)(C)[O+:12]=[C:11]1CCCCCC[CH:10]1[F:20].Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1 10,11=10,20;12=11,12;20,21=21"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH2:10]C)[O:12]1.Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.C[CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](Cl)[CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]1 10,11=10,20;12=11,12"
"Cl[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1.[H:10][Si:11]([CH3:62])([CH3:72])[C:82]1=[CH:83][CH:84]=[C:85]([Cl:86])[CH:93]=[CH:94]1>>Cl[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C:20]([H:10])([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1.[Si+:11]([CH3:62])([CH3:72])[C:82]1=[CH:83][CH:84]=[C:85]([Cl:86])[CH:93]=[CH:94]1 10,11=10,20"
"C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].[H][N-:10][C:61](C(F)(F)F)=[O:62]>>[H][N:10]([CH:20]([CH:21]=[C:22](C)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[C:61](C(F)(F)F)=[O:62] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34])C=C1.[NH2:10][NH2:61]>>C1=CC=C([S:32]([CH-:21][CH2:20][NH2+:10][NH2:61])(=[O:33])=[O:34])C=C1 10=20;20,21=21"
"C1=CC=C(O[C:44]2=[CH:43][CH:42]=[C:41]([CH+:20][C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[CH:46]=[CH:45]2)C=C1.CC1=C[C:61]2=[C:62](C=C1)[NH:12][CH:11]=[N:10]2>>CC1=C[C:61]2=[C:62](C=C1)[NH+:12]=[CH:11][N:10]2[CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](OC2=CC=CC=C2)[CH:45]=[CH:46]1 10,11=10,20;12=11,12"
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1CC[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[C:11]1=[CH:10]C1=CC=C([N+](=O)[O-])C=C1.C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:12]1=[C:11]([CH:10](C2=CC=C([N+](=O)[O-])C=C2)[CH:20]([CH:21]=[CH:22][N:23]2CCCC2C(O[Si](C)(C)C)(C2=CC=CC=C2)C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)CC1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
